US06951879B2
In analogy to example 3.1, 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and azetidine were converted to yield 1-{3-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-azetidine as colorless oil, MS: 342 (MH+).

reactant | 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C17H14BrFOS
reactant | azetidine | N1CCC1 | C3H7N
product | 1-{3-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-azetidine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCN2CCC2 | C20H20FNOS
